### PR TITLE
[Merged by Bors] - feat(NumberTheory/LSeries): results involving partial sums of coefficients (part 2)

### PR DESCRIPTION
**Pull request by xroblot**
We prove the following result : if `f : ℕ → ℂ` is such that `(∑ k ∈ Icc 1 n, f k) / n` tends to some complex number `l` when `n → ∞` and that the L-series `LSeries f` converges for all `s : ℝ` such that `1 < s`, then  `(s - 1) * LSeries f s` tends to `l` when `s → 1` with `1 < s`.

---

- [x] depends on: #20661 
- [x] depends on: #21454 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/NumberTheory/LSeries/SumCoeff.lean [hunk 1]
```diff
@@ -10,6 +10,8 @@ import Mathlib.NumberTheory.AbelSummation
 import Mathlib.NumberTheory.LSeries.Basic
 
 /-!
+
+=======
```
Comment (loefflerd) [inline Mathlib/NumberTheory/LSeries/SumCoeff.lean:14]: merge artifact?

File: Mathlib/Analysis/SpecialFunctions/ImproperIntegrals.lean [hunk 2]
```diff
@@ -115,25 +115,26 @@ theorem integral_Ioi_rpow_of_lt {a : ℝ} (ha : a < -1) {c : ℝ} (hc : 0 < c) :
...
     IntegrableOn (fun t : ℝ => (t : ℂ) ^ a) (Ioi c) := by
-  rw [IntegrableOn, ← integrable_norm_iff, ← IntegrableOn]
-  · refine (integrableOn_Ioi_rpow_of_lt ha hc).congr_fun (fun x hx => ?_) measurableSet_Ioi
-    · dsimp only
-      rw [Complex.norm_eq_abs, Complex.abs_cpow_eq_rpow_re_of_pos (hc.trans hx)]
-  · refine ContinuousOn.aestronglyMeasurable (fun t ht => ?_) measurableSet_Ioi
-    exact
-      (Complex.continuousAt_ofReal_cpow_const _ _ (Or.inr (hc.trans ht).ne')).continuousWithinAt
+  refine (integrable_norm_iff ?_).mp <| integrableOn_Ioi_norm_cpow_of_lt ha hc
+  refine ContinuousOn.aestronglyMeasurable (fun t ht => ?_) measurableSet_Ioi
```
Comment (loefflerd) [inline Mathlib/Analysis/SpecialFunctions/ImproperIntegrals.lean:126]: I think using the "mapsto" arrow is preferred style

File: Mathlib/NumberTheory/LSeries/SumCoeff.lean [hunk 3]
```diff
@@ -153,3 +160,222 @@ theorem LSeries_eq_mul_integral_of_nonneg (f : ℕ → ℝ) {r : ℝ} (hr : 0 
   LSeries_eq_mul_integral' _ hr hs <| hO.congr_left fun _ ↦ by simp [_root_.abs_of_nonneg (hf _)]
 
 end integralrepresentation
+
+noncomputable section residue
+
+variable {f : ℕ → ℂ} {l : ℂ} (hlim : Tendsto (fun n : ℕ ↦ (∑ k ∈ Icc 1 n, f k) / n) atTop (𝓝 l))
```
Comment (loefflerd) [inline Mathlib/NumberTheory/LSeries/SumCoeff.lean:166]: Using `variable` with Prop-valued hypotheses tends to be a bit clumsy; you have to `include` them every time, so it's probably simpler just to reproduce the hypothesis in each lemma

File: Mathlib/NumberTheory/LSeries/SumCoeff.lean [hunk 4]
```diff
@@ -153,3 +160,222 @@ theorem LSeries_eq_mul_integral_of_nonneg (f : ℕ → ℝ) {r : ℝ} (hr : 0 
...
+    have := (abs_lt.mp <| Real.norm_eq_abs _ ▸ (hs₂.trans_le (min_le_left _ _))).2
+    rwa [sub_lt_iff_lt_add', one_add_one_eq_two] at this
+  calc
+    _ ≤ ‖(s - 1) * LSeries f s - l * s‖ + ‖l * s - l‖ := norm_sub_le_norm_sub_add_norm_sub _ _ _
+    _ < (s - 1) * s * C + s * (ε / 6) + (ε / 3) := add_lt_add_of_le_of_lt hC₂ (by rwa [mul_comm])
+    _ ≤ (ε / 3) + s * (ε / 6) + (ε / 3) := by gcongr
+    _ < (ε / 3) + (ε / 3) + (ε / 3) := ?_
+    _ = ε := add_thirds ε
+  refine add_lt_add_right (add_lt_add_left ?_ (ε / 3)) (ε / 3)
+  exact lt_of_lt_of_eq ((mul_lt_mul_right hε6).mpr sle2) (by ring)
```
Comment (loefflerd) [inline Mathlib/NumberTheory/LSeries/SumCoeff.lean:367]: can `linarith` handle this?

File: Mathlib/NumberTheory/LSeries/SumCoeff.lean [hunk 5]
```diff
@@ -153,3 +160,222 @@ theorem LSeries_eq_mul_integral_of_nonneg (f : ℕ → ℝ) {r : ℝ} (hr : 0 
...
+    (hS : LocallyIntegrableOn (fun t ↦ S t - l * t) (Set.Ici 1)) (hε : 0 < ε)
+    (hs : 1 < s) (hT₁ : 1 ≤ T) (hT : ∀ t ≥ T, ‖S t - l * t‖ ≤ ε * t) :
+    (s - 1) * ∫ (t : ℝ) in Set.Ioi T, ‖S t - l * t‖ * t ^ (-s - 1) ≤ ε := by
+  have hT₀ : 0 < T := zero_lt_one.trans_le hT₁
+  have h {t : ℝ} (ht : 0 < t) : t ^ (-s) = t * t ^ (-s - 1) := by
+    rw [Real.rpow_sub ht, Real.rpow_one, mul_div_cancel₀ _ ht.ne']
+  calc
+    _ ≤ (s - 1) * ∫ (t : ℝ) in Set.Ioi T, ε * t ^ (-s) := ?_
+    _ ≤ ε * ((s - 1) * ∫ (t : ℝ) in Set.Ioi 1, t ^ (-s)) := ?_
+    _ = ε := ?_
```
Comment (loefflerd) [inline Mathlib/NumberTheory/LSeries/SumCoeff.lean:236]: I would personally find it clearer if the proofs of the calc steps were interleaved between the calc lines rather than being stored up and done at the end.

File: Mathlib/NumberTheory/LSeries/SumCoeff.lean [hunk 6]
```diff
@@ -153,3 +160,222 @@ theorem LSeries_eq_mul_integral_of_nonneg (f : ℕ → ℝ) {r : ℝ} (hr : 0 
...
+          l * s * ((s - 1) * ∫ (t : ℝ) in Set.Ioi 1, ↑t ^ (-(s : ℂ)))‖ := ?_
+    _ = ‖(s - 1) * s *
+          ∫ (t : ℝ) in Set.Ioi 1, (S t * (t : ℂ) ^ (-s - 1 : ℂ) - l * t ^ (-s : ℂ))‖ := ?_
+    _ = ‖(s - 1) * s * ∫ (t : ℝ) in Set.Ioi 1, (S t - l * t) * (t : ℂ) ^ (-s - 1 : ℂ)‖ := ?_
+    _ ≤ (s - 1) * s * ∫ (t : ℝ) in Set.Ioi 1, ‖(S t - l * ↑t) * ↑t ^ (-s - 1 : ℂ)‖ := ?_
+    _ = (s - 1) * s * ∫ (t : ℝ) in Set.Ioi 1, ‖S t - l * t‖ * t ^ (-s - 1) := ?_
+    _ = (s - 1) * s * (Cs + ∫ (t : ℝ) in Set.Ioi T, ‖S t - l * t‖ * t ^ (-s - 1)) := ?_
+    _ ≤ (s - 1) * s * C +
+          s * ((s - 1) * ∫ (t : ℝ) in Set.Ioi T, ‖S t - l * t‖ * t ^ (-s - 1)) := ?_
+    _ ≤ (s - 1) * s * C + s * ε := ?_
```
Comment (loefflerd) [inline Mathlib/NumberTheory/LSeries/SumCoeff.lean:301]: Same comment here. I suggest **not** indenting the `calc` steps, so they stand out visually from the proofs indented in between.

File: Mathlib/NumberTheory/LSeries/SumCoeff.lean [hunk 7]
```diff
@@ -153,3 +160,222 @@ theorem LSeries_eq_mul_integral_of_nonneg (f : ℕ → ℝ) {r : ℝ} (hr : 0 
...
+include hlim in
+private theorem lemma₁ {s : ℝ} (hs : 1 < s) :
+    IntegrableOn (fun t : ℝ ↦ (∑ k ∈ Icc 1 ⌊t⌋₊, f k) * (t : ℂ) ^ (-(s : ℂ) - 1)) (Set.Ici 1) := by
+  have h₁ : LocallyIntegrableOn (fun t : ℝ ↦ (∑ k ∈ Icc 1 ⌊t⌋₊, f k) * (t : ℂ) ^ (-(s : ℂ) - 1))
+        (Set.Ici 1) := by
+    simp_rw [mul_comm]
+    refine locallyIntegrableOn_mul_sum_Icc f zero_le_one ?_
+    refine ContinuousOn.locallyIntegrableOn (fun t ht ↦ ?_) measurableSet_Ici
+    exact (continuousAt_ofReal_cpow_const _ _ <|
+      Or.inr (zero_lt_one.trans_le ht).ne').continuousWithinAt
```
Comment (loefflerd) [inline Mathlib/NumberTheory/LSeries/SumCoeff.lean:179]: can we use `continuity` or `fun_prop` here?

File: Mathlib/NumberTheory/LSeries/SumCoeff.lean [hunk 8]
```diff
@@ -153,3 +160,222 @@ theorem LSeries_eq_mul_integral_of_nonneg (f : ℕ → ℝ) {r : ℝ} (hr : 0 
...
+  have h₂ : (fun t : ℝ ↦ ∑ k ∈ Icc 1 ⌊t⌋₊, f k) =O[atTop] fun t ↦ t ^ (1 : ℝ) := by
+    simp_rw [Real.rpow_one]
+    refine IsBigO.trans_isEquivalent ?_ isEquivalent_nat_floor
+    suffices Tendsto (fun n ↦ (∑ k ∈ Icc 1 n, f k) / ((n : ℝ) ^ (1 : ℝ) : ℝ)) atTop (𝓝 l) by
```
Comment (loefflerd) [inline Mathlib/NumberTheory/LSeries/SumCoeff.lean:183]: The body of the `suffices` is shorter than the remaining proof, so maybe use `have`?

File: Mathlib/NumberTheory/LSeries/SumCoeff.lean [hunk 9]
```diff
@@ -153,3 +160,222 @@ theorem LSeries_eq_mul_integral_of_nonneg (f : ℕ → ℝ) {r : ℝ} (hr : 0 
...
+    refine hS₁.norm.mul_continuousOn ?_ isLocallyClosed_Ici
+    exact fun t ht ↦ (Real.continuousAt_rpow_const _ _
+      <| Or.inl (zero_lt_one.trans_le ht).ne').continuousWithinAt
+  refine h.integrableOn_of_isBigO_atTop (g := fun t ↦ t ^(-s)) (isBigO_iff.mpr ⟨ε, ?_⟩) ?_
+  · filter_upwards [eventually_ge_atTop T] with t ht
+    have ht' : 0 < t := hT.trans_le ht
+    rw [norm_mul, norm_norm, show t ^ (-s) = t * t ^ (-s - 1) by
+        rw [Real.rpow_sub ht', Real.rpow_one, mul_div_cancel₀ _ ht'.ne'],
+      norm_mul, Real.norm_of_nonneg ht'.le, ← mul_assoc]
+    exact mul_le_mul_of_nonneg_right (hS₂ t ht) (norm_nonneg _)
```
Comment (loefflerd) [inline Mathlib/NumberTheory/LSeries/SumCoeff.lean:205]: If you do `filter_upwards [eventually_ge_atTop T, eventually_ge_atTop 0] with t ht ht'` you don't need to make `ht'` separately.

File: Mathlib/NumberTheory/LSeries/SumCoeff.lean [hunk 10]
```diff
@@ -153,3 +160,222 @@ theorem LSeries_eq_mul_integral_of_nonneg (f : ℕ → ℝ) {r : ℝ} (hr : 0 
...
+  have h : LocallyIntegrableOn (fun t : ℝ ↦ ‖S t‖ * (t ^ (-s - 1))) (Set.Ici 1) := by
+    refine hS₁.norm.mul_continuousOn ?_ isLocallyClosed_Ici
+    exact fun t ht ↦ (Real.continuousAt_rpow_const _ _
+      <| Or.inl (zero_lt_one.trans_le ht).ne').continuousWithinAt
+  refine h.integrableOn_of_isBigO_atTop (g := fun t ↦ t ^(-s)) (isBigO_iff.mpr ⟨ε, ?_⟩) ?_
+  · filter_upwards [eventually_ge_atTop T] with t ht
+    have ht' : 0 < t := hT.trans_le ht
+    rw [norm_mul, norm_norm, show t ^ (-s) = t * t ^ (-s - 1) by
+        rw [Real.rpow_sub ht', Real.rpow_one, mul_div_cancel₀ _ ht'.ne'],
+      norm_mul, Real.norm_of_nonneg ht'.le, ← mul_assoc]
```
Comment (loefflerd) [inline Mathlib/NumberTheory/LSeries/SumCoeff.lean:204]: `rw [show ... by rw [...]]` seems convoluted

File: Mathlib/NumberTheory/LSeries/SumCoeff.lean [hunk 11]
```diff
@@ -153,3 +160,222 @@ theorem LSeries_eq_mul_integral_of_nonneg (f : ℕ → ℝ) {r : ℝ} (hr : 0 
...
+  rw [sub_zero, Real.norm_of_nonneg (mul_nonneg
+    (mul_nonneg (sub_nonneg.mpr hs₁.le) (zero_lt_one.trans hs₁).le) hC₁)] at hδ₁
+  have sle2 : s < 2 := by
+    have := (abs_lt.mp <| Real.norm_eq_abs _ ▸ (hs₂.trans_le (min_le_left _ _))).2
+    rwa [sub_lt_iff_lt_add', one_add_one_eq_two] at this
+  calc
+    _ ≤ ‖(s - 1) * LSeries f s - l * s‖ + ‖l * s - l‖ := norm_sub_le_norm_sub_add_norm_sub _ _ _
+    _ < (s - 1) * s * C + s * (ε / 6) + (ε / 3) := add_lt_add_of_le_of_lt hC₂ (by rwa [mul_comm])
+    _ ≤ (ε / 3) + s * (ε / 6) + (ε / 3) := by gcongr
+    _ < (ε / 3) + (ε / 3) + (ε / 3) := ?_
```
Comment (loefflerd) [inline Mathlib/NumberTheory/LSeries/SumCoeff.lean:364]: Is it possible that these fiddly inequality manipulations could be avoided by using a "softer" approach working with filters, rather than rewriting everything in terms of epsilons?

**Review by loefflerd — COMMENTED** [review]
Hi Xavier, 

I won't have time to actually try compiling this and experimenting with it for a day or two, so here are some stylistic comments based only on reading the code on github.

**Comment by xroblot** [comment]
> Hi Xavier,
> 
> I won't have time to actually try compiling this and experimenting with it for a day or two, so here are some stylistic comments based only on reading the code on github.

Thanks for the first comments. Don't worry, there is no need to hurry.

File: Mathlib/NumberTheory/LSeries/SumCoeff.lean (hunk 9 above)
Comment (loefflerd) [inline Mathlib/NumberTheory/LSeries/SumCoeff.lean:205]:
```suggestion
  · filter_upwards [eventually_ge_atTop T, eventually_gt_atTop 0] with t ht ht'
    simpa [_root_.abs_of_nonneg, Real.rpow_nonneg, ht'.le, Real.rpow_sub ht', mul_assoc, ht'.ne', 
      mul_div_cancel₀] using mul_le_mul_of_nonneg_right (hS₂ t ht) (norm_nonneg <| t ^ (-s - 1))
```

It is annoying to have to write `_root_.abs_of_nonneg`. Someone should really add the `protected` flag to `Complex.abs_of_nonneg`, to stop it shadowing the root namespace declaration.

File: Mathlib/NumberTheory/LSeries/SumCoeff.lean [hunk 12]
```diff
@@ -153,3 +160,222 @@ theorem LSeries_eq_mul_integral_of_nonneg (f : ℕ → ℝ) {r : ℝ} (hr : 0 
...
+    suffices Tendsto (fun n ↦ (∑ k ∈ Icc 1 n, f k) / ((n : ℝ) ^ (1 : ℝ) : ℝ)) atTop (𝓝 l) by
+      simpa using (isBigO_atTop_natCast_rpow_of_tendsto_div_rpow this).comp_tendsto
+        tendsto_nat_floor_atTop
+    simpa using hlim
+  refine h₁.integrableOn_of_isBigO_atTop (g := fun t ↦ t ^(-s)) ?_ ?_
+  · refine IsBigO.mul_atTop_rpow_of_isBigO_rpow 1 (-s - 1) _ h₂ ?_ (by linarith)
+    exact (norm_ofReal_cpow_eventually_eq_atTop _).isBigO.of_norm_left
+  · rwa [integrableAtFilter_rpow_atTop_iff, neg_lt_neg_iff]
+
+private theorem lemma₂ {s T ε : ℝ} {S : ℝ → ℂ} (hs : 1 < s) (hT : 0 < T)
```
Comment (loefflerd) [inline Mathlib/NumberTheory/LSeries/SumCoeff.lean:192]:
```suggestion
private theorem lemma₂ {s T ε : ℝ} {S : ℝ → ℂ} (hs : 1 < s)
```
(not needed)

File: Mathlib/NumberTheory/LSeries/SumCoeff.lean [hunk 13]
```diff
@@ -153,3 +160,222 @@ theorem LSeries_eq_mul_integral_of_nonneg (f : ℕ → ℝ) {r : ℝ} (hr : 0 
...
+      norm_mul, Real.norm_of_nonneg ht'.le, ← mul_assoc]
+    exact mul_le_mul_of_nonneg_right (hS₂ t ht) (norm_nonneg _)
+  · exact integrableAtFilter_rpow_atTop_iff.mpr <| neg_lt_neg_iff.mpr hs
+
+end lemmas
+
+section proof
+
+include hlim in
+private theorem LSeries_tendsto_sub_mul_nhds_one_of_tendsto_sum_div_aux₁ {ε : ℝ} (hε : ε > 0) :
```
Comment (loefflerd) [inline Mathlib/NumberTheory/LSeries/SumCoeff.lean:213]:
```suggestion
private theorem LSeries_tendsto_sub_mul_nhds_one_of_tendsto_sum_div_aux₁ {ε : ℝ} (hε : 0 < ε) :
```

File: Mathlib/NumberTheory/LSeries/SumCoeff.lean [hunk 14]
```diff
@@ -153,3 +160,222 @@ theorem LSeries_eq_mul_integral_of_nonneg (f : ℕ → ℝ) {r : ℝ} (hr : 0 
...
+    ∀ᶠ t : ℝ in atTop, ‖(∑ k ∈ Icc 1 ⌊t⌋₊, f k) - l * t‖ < ε * t := by
+  have h_lim' : Tendsto (fun t : ℝ ↦ (∑ k ∈ Icc 1 ⌊t⌋₊, f k : ℂ) / t) atTop (𝓝 l) := by
+    refine (mul_one l ▸ ofReal_one ▸ ((hlim.comp tendsto_nat_floor_atTop).mul <|
+      tendsto_ofReal_iff.mpr <| tendsto_nat_floor_div_atTop)).congr' ?_
+    filter_upwards [eventually_ge_atTop 1] with t ht
+    rw [Function.comp_def, ofReal_div, ofReal_natCast, div_mul_div_cancel₀ (by
+      rwa [Nat.cast_ne_zero, ne_eq, Nat.floor_eq_zero, not_lt])]
+  rw [Metric.tendsto_nhds] at h_lim'
+  filter_upwards [eventually_gt_atTop 0, h_lim' ε hε] with t ht₁ ht₂
```
Comment (loefflerd) [inline Mathlib/NumberTheory/LSeries/SumCoeff.lean:222]:
```suggestion
    simp [div_mul_div_cancel₀ (show (⌊t⌋₊ : ℂ) ≠ 0 by simpa)]
  filter_upwards [eventually_gt_atTop 0, Metric.tendsto_nhds.mp h_lim' ε hε] with t ht₁ ht₂
```

File: Mathlib/NumberTheory/LSeries/SumCoeff.lean [hunk 15]
```diff
@@ -153,3 +160,222 @@ theorem LSeries_eq_mul_integral_of_nonneg (f : ℕ → ℝ) {r : ℝ} (hr : 0 
...
+  rwa [dist_eq_norm, div_sub' _ _ _ (ne_zero_of_re_pos ht₁), norm_div, norm_real,
```
Comment (loefflerd) [inline Mathlib/NumberTheory/LSeries/SumCoeff.lean:223]: Again, if you feel like a good citizen you could make the first three arguments to `div_sub'` implicit.

File: Mathlib/NumberTheory/LSeries/SumCoeff.lean [hunk 16]
```diff
@@ -153,3 +160,222 @@ theorem LSeries_eq_mul_integral_of_nonneg (f : ℕ → ℝ) {r : ℝ} (hr : 0 
...
+    · exact (sub_pos_of_lt hs).le
+  · rw [integral_mul_left, ← mul_assoc, ← mul_assoc, mul_comm ε]
+    refine mul_le_mul_of_nonneg_left (setIntegral_mono_set ?_ ?_
+      (Set.Ioi_subset_Ioi hT₁).eventuallyLE) (mul_nonneg (sub_pos_of_lt hs).le hε.le)
+    · exact integrableOn_Ioi_rpow_of_lt (neg_lt_neg_iff.mpr hs) zero_lt_one
+    · exact (ae_restrict_iff' measurableSet_Ioi).mpr <| univ_mem' fun t ht ↦
+        Real.rpow_nonneg (zero_le_one.trans ht.le) _
+  · rw [integral_Ioi_rpow_of_lt (by rwa [neg_lt_neg_iff]) zero_lt_one, Real.one_rpow, neg_div,
+      ← one_div_neg_eq_neg_one_div, neg_add', neg_neg, mul_one_div,
+      div_self (sub_ne_zero.mpr hs.ne'), mul_one]
```
Comment (loefflerd) [inline Mathlib/NumberTheory/LSeries/SumCoeff.lean:252]:
```suggestion
  · rw [integral_Ioi_rpow_of_lt (by rwa [neg_lt_neg_iff]) zero_lt_one, Real.one_rpow]
    field_simp [show -s + 1 ≠ 0 by linarith, hε.ne']
    ring
```
(slower, but hopefully more robust)

**Review by loefflerd — COMMENTED** [review]
Here are some more detailed ocmments on the first half (up to line 250 of the main file)

File: Mathlib/NumberTheory/LSeries/SumCoeff.lean [hunk 17]
```diff
@@ -153,3 +160,222 @@ theorem LSeries_eq_mul_integral_of_nonneg (f : ℕ → ℝ) {r : ℝ} (hr : 0 
...
+  let C := ∫ t in Set.Ioc 1 T, ‖S t - l * t‖ * t ^ (-1 - 1 : ℝ)
+  have hC : 0 ≤ C := by
+    refine setIntegral_nonneg_ae measurableSet_Ioc (univ_mem' fun t ht ↦ ?_)
+    exact mul_nonneg (norm_nonneg _) <| Real.rpow_nonneg (zero_le_one.trans ht.1.le) _
+  refine ⟨C, hC, fun s hs ↦ ?_⟩
+  have hs' : 0 ≤ (s - 1) * s := mul_nonneg (sub_nonneg.mpr hs.le) (zero_le_one.trans hs.le)
+  have h₀ : LocallyIntegrableOn (fun t ↦ S t - l * t) (Set.Ici 1) := by
+    refine .sub ?_ <| ContinuousOn.locallyIntegrableOn (by fun_prop) measurableSet_Ici
+    convert locallyIntegrableOn_mul_sum_Icc f zero_le_one (locallyIntegrableOn_const 1)
+    rw [one_mul]
```
Comment (loefflerd) [inline Mathlib/NumberTheory/LSeries/SumCoeff.lean:272]:
```suggestion
    simpa using locallyIntegrableOn_mul_sum_Icc f zero_le_one (locallyIntegrableOn_const 1)
```

File: Mathlib/NumberTheory/LSeries/SumCoeff.lean [hunk 18]
```diff
@@ -153,3 +160,222 @@ theorem LSeries_eq_mul_integral_of_nonneg (f : ℕ → ℝ) {r : ℝ} (hr : 0 
...
+    rw [sub_mul, cpow_sub _ _ ht, cpow_one, mul_assoc, mul_div_cancel₀ _ ht]
+  · rw [norm_mul, show ((s : ℂ) - 1) * s = ((s - 1) * s : ℝ) by simp, norm_real,
+      Real.norm_of_nonneg hs']
+    exact mul_le_mul_of_nonneg_left (norm_integral_le_integral_norm _) hs'
+  · congr 1
+    refine setIntegral_congr_fun measurableSet_Ioi fun t ht ↦ ?_
+    replace ht : 0 ≤ t := zero_le_one.trans ht.le
+    rw [norm_mul, show (-(s : ℂ) - 1) = (-s - 1 : ℝ) by simp, ← ofReal_cpow ht, norm_real,
+      Real.norm_of_nonneg (Real.rpow_nonneg ht _)]
+  · rw [← Set.Ioc_union_Ioi_eq_Ioi hT₁, setIntegral_union (Set.Ioc_disjoint_Ioi le_rfl)
```
Comment (loefflerd) [inline Mathlib/NumberTheory/LSeries/SumCoeff.lean:322]:
```suggestion
  · rw [← Set.Ioc_union_Ioi_eq_Ioi hT₁, setIntegral_union Set.Ioc_disjoint_Ioi_same
```

File: Mathlib/NumberTheory/LSeries/SumCoeff.lean (hunk 4 above)
Comment (loefflerd) [reply Mathlib/NumberTheory/LSeries/SumCoeff.lean:367]: (`linarith [mul_lt_mul_of_pos_right sle2 (show 0 < ε / 6 by positivity)]` seems to work)

File: Mathlib/NumberTheory/LSeries/SumCoeff.lean [hunk 19]
```diff
@@ -153,3 +160,222 @@ theorem LSeries_eq_mul_integral_of_nonneg (f : ℕ → ℝ) {r : ℝ} (hr : 0 
...
+  refine ⟨min 1 (min δ₁ δ₂), by positivity, fun s hs₁ hs₂ ↦ ?_⟩
+  specialize hC₂ s hs₁
+  specialize hδ₁ hs₁ <| hs₂.trans_le <| (min_le_right _ _).trans (min_le_left _ _)
+  specialize hδ₂ hs₁ <| hs₂.trans_le <| (min_le_right _ _).trans (min_le_right _ _)
+  rw [dist_eq_norm] at hδ₁ hδ₂ hs₂ ⊢
+  rw [sub_zero, Real.norm_of_nonneg (mul_nonneg
+    (mul_nonneg (sub_nonneg.mpr hs₁.le) (zero_lt_one.trans hs₁).le) hC₁)] at hδ₁
+  have sle2 : s < 2 := by
+    have := (abs_lt.mp <| Real.norm_eq_abs _ ▸ (hs₂.trans_le (min_le_left _ _))).2
+    rwa [sub_lt_iff_lt_add', one_add_one_eq_two] at this
```
Comment (loefflerd) [inline Mathlib/NumberTheory/LSeries/SumCoeff.lean:359]:
```suggestion
  have slt2 : s < 2 := by simp [abs_lt] at hs₂; linarith
```

File: Mathlib/NumberTheory/LSeries/SumCoeff.lean [hunk 20]
```diff
@@ -153,3 +160,222 @@ theorem LSeries_eq_mul_integral_of_nonneg (f : ℕ → ℝ) {r : ℝ} (hr : 0 
...
+
+theorem LSeries_tendsto_sub_mul_nhds_one_of_tendsto_sum_div_and_nonneg (f : ℕ → ℝ) {l : ℝ}
+    (hf : Tendsto (fun n ↦ (∑ k ∈ Icc 1 n, f k) / (n : ℝ)) atTop (𝓝 l))
+    (hf' : ∀ n, 0 ≤ f n) :
+    Tendsto (fun s : ℝ ↦ (s - 1) * LSeries (fun n ↦ f n) s) (𝓝[>] 1) (𝓝 l) := by
+  refine  LSeries_tendsto_sub_mul_nhds_one_of_tendsto_sum_div (f := fun n ↦ f n)
+    (hf.ofReal.congr fun _ ↦ ?_) fun s hs ↦ ?_
+  · simp_rw [ofReal_div, ofReal_sum, ofReal_natCast]
+  · refine LSeriesSummable_of_sum_norm_bigO_and_nonneg ?_ hf' zero_le_one (by rwa [ofReal_re])
+    exact isBigO_atTop_natCast_rpow_of_tendsto_div_rpow (a := l) (by simpa using hf)
```
Comment (loefflerd) [inline Mathlib/NumberTheory/LSeries/SumCoeff.lean:377]:
```suggestion
    Tendsto (fun s : ℝ ↦ (s - 1) * LSeries (f ·) s) (𝓝[>] 1) (𝓝 l) := by
  refine LSeries_tendsto_sub_mul_nhds_one_of_tendsto_sum_div 
    (hf.ofReal.congr fun _ ↦ ?_) fun s hs ↦ ?_
  · simp
  · refine LSeriesSummable_of_sum_norm_bigO_and_nonneg ?_ hf' zero_le_one hs
    exact isBigO_atTop_natCast_rpow_of_tendsto_div_rpow (by simpa)
```

File: Mathlib/NumberTheory/LSeries/SumCoeff.lean [hunk 21]
```diff
@@ -153,3 +160,222 @@ theorem LSeries_eq_mul_integral_of_nonneg (f : ℕ → ℝ) {r : ℝ} (hr : 0 
...
+    have : ContinuousAt (fun s : ℝ ↦ s * l) 1 := by fun_prop
+    convert tendsto_nhdsWithin_of_tendsto_nhds this.tendsto
+    rw [Complex.ofReal_one, one_mul]
+  rw [Metric.tendsto_nhdsWithin_nhds] at lim1 lim2
+  obtain ⟨δ₁, _, hδ₁⟩ := lim1 _ hε3
+  obtain ⟨δ₂, _, hδ₂⟩ := lim2 _ hε3
+  refine ⟨min 1 (min δ₁ δ₂), by positivity, fun s hs₁ hs₂ ↦ ?_⟩
+  specialize hC₂ s hs₁
+  specialize hδ₁ hs₁ <| hs₂.trans_le <| (min_le_right _ _).trans (min_le_left _ _)
+  specialize hδ₂ hs₁ <| hs₂.trans_le <| (min_le_right _ _).trans (min_le_right _ _)
```
Comment (loefflerd) [inline Mathlib/NumberTheory/LSeries/SumCoeff.lean:353]:
```suggestion
  specialize hδ₁ hs₁ (by simp at hs₂; tauto)
  specialize hδ₂ hs₁ (by simp at hs₂; tauto)
```

File: Mathlib/NumberTheory/LSeries/SumCoeff.lean [hunk 22]
```diff
@@ -153,3 +160,222 @@ theorem LSeries_eq_mul_integral_of_nonneg (f : ℕ → ℝ) {r : ℝ} (hr : 0 
...
+    · exact (ae_restrict_iff' measurableSet_Ioi).mpr <| univ_mem' fun t ht ↦
+        Real.rpow_nonneg (zero_le_one.trans ht.le) _
+  · rw [integral_Ioi_rpow_of_lt (by rwa [neg_lt_neg_iff]) zero_lt_one, Real.one_rpow, neg_div,
+      ← one_div_neg_eq_neg_one_div, neg_add', neg_neg, mul_one_div,
+      div_self (sub_ne_zero.mpr hs.ne'), mul_one]
+
+variable (hfS : ∀ s : ℝ, 1 < s → LSeriesSummable f s)
+
+include hlim hfS in
+private theorem LSeries_tendsto_sub_mul_nhds_one_of_tendsto_sum_div_aux₃ {ε : ℝ} (hε : ε > 0) :
```
Comment (loefflerd) [inline Mathlib/NumberTheory/LSeries/SumCoeff.lean:257]: This proof is very long and needs some comments to the strategy a bit clearer. (I've heard it suggested that you should have at least one comment every 10 lines.)

**Review by loefflerd — COMMENTED** [review]
Here are some further comments. All my remarks are quite "localised", I'm completely happy with the general strategy. I've just tried to suggest a few places where more automated tactics can be used; this is slower, but makes things less likely to break in future.

(It's a pity the automated tactics can't do more; it would be nice if `linarith` could see through the definition of `Set.Icc` etc. But I'm no expert on tactic hacking so I don't know how easy or hard that is.)

**Comment by xroblot** [comment]
@loefflerd, thanks for the review. I'll start working on incorporating your suggestions soon. Still, since I am a good citizen, I made #21453 and #21454. I think #21453 is probably uncontroversial, but #21454 might be more difficult to accept so I am planning to make a Zulip post about it.

File: Mathlib/NumberTheory/LSeries/SumCoeff.lean (hunk 12 above)
Comment (xroblot) [reply Mathlib/NumberTheory/LSeries/SumCoeff.lean:192]: Good point!

File: Mathlib/NumberTheory/LSeries/SumCoeff.lean (hunk 11 above)
Comment (xroblot) [reply Mathlib/NumberTheory/LSeries/SumCoeff.lean:358]: Yeah, there is a much simpler proof using `limsup` but I found it painful to work with it in the past. Still, I can give it another try.

Comment (loefflerd) [reply Mathlib/NumberTheory/LSeries/SumCoeff.lean:358]: I was thinking more of whether something like `Eventually.and` or `filter_upwards` etc could help you, but that was a rather naive comment before I had a chance to really read the proof, and probably it doesn't work. Sorry for the noise!

Comment (xroblot) [reply Mathlib/NumberTheory/LSeries/SumCoeff.lean]: Anyway, I decided I would not let the `limsup` API bully me so I wrote a new proof using `limsup`. Sorry about the extra work :)

File: Mathlib/NumberTheory/LSeries/SumCoeff.lean (hunk 22 above)
Comment (xroblot) [reply Mathlib/NumberTheory/LSeries/SumCoeff.lean]: David, I added some comments to explain the proof. I also think I addressed all your suggestions. Thanks again for the review!

File: Mathlib/NumberTheory/LSeries/SumCoeff.lean [hunk 23]
```diff
@@ -153,3 +158,215 @@ theorem LSeries_eq_mul_integral_of_nonneg (f : ℕ → ℝ) {r : ℝ} (hr : 0 
...
+      hlim hε)).frequently.forall_exists_of_atTop 1
+  let S : ℝ → ℂ := fun t ↦ ∑ k ∈ Icc 1 ⌊t⌋₊, f k
+  -- This result is the main ingredient of the proof. First, we replace `s * l` by `(s - 1) * s`
+  -- times the integral of `l * t ^ (-s)` (using `h₃` below). Then, replacing the `LSeries` by its
+  -- integral representation, we need to bound the integral of `(S t - l * t) * t ^ (-s - 1)`
+  -- (with the same notation as in the proof). For that, we cut this integral into two parts split
+  -- at the value `T` given by `LSeries_tendsto_sub_mul_nhds_one_of_tendsto_sum_div_aux₁` and then
+  -- defined `C` so that that it gives an upper bound of the first part. The second part is bounded
+  -- using `LSeries_tendsto_sub_mul_nhds_one_of_tendsto_sum_div_aux₂` since `‖S t - l t‖ ≤ ε * t`
+  -- for all `t ≥ T`.
```
[the remark this answers is not in the document]
Comment (xroblot) [reply Mathlib/NumberTheory/LSeries/SumCoeff.lean:264]: You're right. I spliced and moved the comments to several parts of the proof. I hope it's clearer now.

[the remark this answers is not in the document]
Comment (loefflerd) [reply Mathlib/NumberTheory/LSeries/SumCoeff.lean:264]: I suspect you may have forgotten to push this change.🫸

[the remark this answers is not in the document]
Comment (xroblot) [reply Mathlib/NumberTheory/LSeries/SumCoeff.lean]: Sorry about that, I was distracted playing with `Complex.norm` 😅

**Review by loefflerd — COMMENTED** [review]
Looks good to me now, thanks!

maintainer merge

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
